* File: LSOGCPX2.pex.netlist.pex
* Created: Fri Jun 30 09:14:03 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LSOGCPX2_D_VDD 1 4 8 12 18 22 26 30 34 39 71 72 73 74 75 76 77 78
c85 78 0 0.239733f
c86 77 0 0.13426f
c87 76 0 0.161737f
c88 75 0 0.136464f
c89 74 0 0.167264f
c90 73 0 0.15438f
c91 72 0 0.221428f
c92 71 0 0.191684f
c93 62 0 0.0701213f
c94 57 0 0.0701213f
c95 55 0 0.0701213f
c96 53 0 0.0701213f
c97 48 0 0.0701213f
c98 34 0 0.268937f
c99 30 0 0.266207f
c100 26 0 0.286367f
c101 22 0 0.278992f
c102 18 0 0.487637f
c103 12 0 0.604835f
c104 8 0 0.297291f
c105 4 0 0.434747f
c106 1 0 0.408294f
r107 61 78 0.17
r108 61 62 0.0120155
r109 58 77 0.17
r110 56 76 0.17
r111 56 57 0.0120155
r112 54 75 0.17
r113 54 55 0.0120155
r114 52 74 0.17
r115 52 53 0.0120155
r116 49 73 0.17
r117 47 72 0.306944
r118 47 48 0.0120155
r119 44 71 0.17
r120 40 62 0.0329425
r121 34 62 0.0329425
r122 34 39 0.034
r123 31 57 0.0329425
r124 27 55 0.0329425
r125 26 57 0.0329425
r126 23 53 0.0329425
r127 22 55 0.0329425
r128 18 53 0.0329425
r129 13 48 0.0329425
r130 8 48 0.0329425
r131 1 58 0.0120155
r132 1 30 0.0329425
r133 1 35 0.0329425
r134 1 49 0.0120155
r135 1 12 0.0329425
r136 1 19 0.0329425
r137 1 44 0.0120155
r138 1 4 0.0329425
r139 1 9 0.0329425
r140 1 40 0.03825
r141 1 39 0.12325
r142 1 35 0.08925
r143 1 30 0.24225
r144 1 31 0.00425
r145 1 26 0.19125
r146 1 27 0.06375
r147 1 22 0.13175
r148 1 23 0.12325
r149 1 18 0.20825
r150 1 19 0.24225
r151 1 12 0.08925
r152 1 13 0.15725
r153 1 8 0.17425
r154 1 9 0.08925
r155 1 4 0.24225
.ends

.subckt PM_LSOGCPX2_CGOBS 2 6 8 9 17
c22 17 0 0.141958f
c23 9 0 0.327705f
c24 8 0 0.102266f
c25 6 0 0.11204f
c26 2 0 0.130179f
r27 17 18 0.04675
r28 8 10 0.0519666
r29 8 9 0.0519666
r30 6 18 0.025958
r31 6 10 0.19125
r32 3 11 0.0216719
r33 3 9 0.942083
r34 2 11 0.0708333
.ends

.subckt PM_LSOGCPX2_N$271 2 4 6 11 13 14 16 19 23 27 29 30 31 33 36 37 38 40 42
+ 45 48 51 52 53 56 60 63 65
c192 65 0 0.168533f
c193 63 0 0.14015f
c194 60 0 0.299381f
c195 53 0 0.477626f
c196 52 0 0.166865f
c197 51 0 0.0174888f
c198 48 0 0.0455422f
c199 45 0 0.157982f
c200 42 0 0.0328748f
c201 40 0 0.0730288f
c202 38 0 0.0230494f
c203 37 0 0.181409f
c204 36 0 0.0461711f
c205 33 0 0.0788725f
c206 31 0 0.0824125f
c207 30 0 0.130502f
c208 29 0 0.132967f
c209 27 0 0.137093f
c210 23 0 0.187732f
c211 19 0 0.338377f
c212 16 0 0.113177f
c213 14 0 0.0774301f
c214 13 0 0.277905f
c215 11 0 0.514673f
c216 6 0 0.267268f
c217 4 0 0.127258f
r218 62 63 7
r219 60 62 38.7466
r220 56 63 0.140857
r221 52 66 15.219
r222 52 65 15.219
r223 51 53 0.0519666
r224 51 52 7
r225 48 49 0.138211
r226 45 59 15.2843
r227 44 45 7
r228 42 53 1.40958
r229 40 42 0.0474919
r230 39 40 0.198333
r231 37 39 0.0474919
r232 37 38 0.65875
r233 36 38 0.0474919
r234 35 36 0.113333
r235 33 35 0.0474919
r236 33 34 0.354167
r237 32 48 0.00603795
r238 31 34 0.068
r239 31 32 0.2975
r240 29 49 0.00603795
r241 29 30 0.595
r242 25 27 20.8333
r243 21 23 37.5
r244 17 27 1.46822
r245 17 19 91.6667
r246 15 25 1.46822
r247 15 16 37.5
r248 13 16 13.9682
r249 13 14 75
r250 11 66 129.167
r251 7 14 13.9682
r252 7 65 54.1667
r253 6 60 4.06478
r254 5 23 1.46822
r255 5 6 95.8333
r256 4 21 1.46822
r257 4 59 41.6667
r258 2 30 0.0523728
r259 2 44 0.11902
.ends

.subckt PM_LSOGCPX2_D_GND 1 8 9 10 11 12 13 15 35 38 41 44 57 60 69
c83 69 0 0.425805f
c84 60 0 0.479602f
c85 57 0 0.297051f
c86 44 0 0.475986f
c87 42 0 0.0701213f
c88 41 0 0.708587f
c89 39 0 0.0701213f
c90 38 0 0.364072f
c91 36 0 0.0458872f
c92 35 0 0.224724f
c93 15 0 0.158776f
c94 13 0 0.160144f
c95 12 0 0.151533f
c96 11 0 0.169945f
c97 10 0 0.138063f
c98 1 0 0.754667f
r99 48 69 0.0374263
r100 44 69 0.0374263
r101 41 42 0.0329425
r102 40 42 0.0329425
r103 38 39 0.0329425
r104 37 39 0.0329425
r105 35 36 0.0231002
r106 34 36 0.0231002
r107 20 42 0.0120155
r108 16 39 0.0120155
r109 14 36 0.0225187
r110 14 15 0.3825
r111 13 28 0.160556
r112 12 24 0.155833
r113 11 20 0.146389
r114 10 16 0.146389
r115 9 15 0.104913
r116 1 28 0.0120155
r117 1 60 0.0329425
r118 1 64 0.0329425
r119 1 24 0.0120155
r120 1 57 0.0329425
r121 1 61 0.0329425
r122 1 8 0.0811364
r123 1 69 0.00193182
r124 1 64 0.238
r125 1 60 0.21675
r126 1 61 0.22525
r127 1 57 0.24225
r128 1 40 0.02975
r129 1 41 0.16575
r130 1 37 0.19975
r131 1 38 0.13175
r132 1 34 0.20825
r133 1 35 0.14875
r134 1 48 0.08075
r135 1 44 0.14025
.ends

.subckt PM_LSOGCPX2_N$272 2 3 5 6 7 8 9 12 14 16 21 26 31 34 37
c75 37 0 0.216431f
c76 34 0 0.131229f
c77 31 0 0.0327138f
c78 26 0 0.0255289f
c79 21 0 0.166402f
c80 16 0 0.0237154f
c81 14 0 0.0227308f
c82 12 0 0.430568f
c83 9 0 0.065022f
c84 8 0 0.090412f
c85 7 0 0.438989f
c86 6 0 0.192704f
c87 3 0 0.177724f
r88 31 32 0.1632
r89 27 37 18.8079
r90 26 29 0.0236111
r91 26 27 7
r92 22 36 12.7841
r93 21 22 7
r94 17 32 0.00671768
r95 16 34 0.0300032
r96 16 17 0.141667
r97 15 29 0.0216719
r98 14 31 0.00671768
r99 14 15 0.0991667
r100 10 37 5.88667
r101 10 12 108.333
r102 8 37 11.0394
r103 8 9 29.1667
r104 7 9 13.9682
r105 6 36 13.9111
r106 6 7 158.333
r107 3 36 6.10575
r108 3 5 25
r109 2 21 0.191479
.ends

.subckt PM_LSOGCPX2_A 2 4 6 8 9 10 11 12 15 18 25 31 33 34 37 45 48 50 52 53 54
+ 57 61 64 65 66 69
c151 69 0 0.359613f
c152 66 0 0.220518f
c153 65 0 0.127417f
c154 64 0 0.165493f
c155 61 0 0.269757f
c156 54 0 0.0833173f
c157 53 0 0.132421f
c158 52 0 0.047378f
c159 50 0 0.0342433f
c160 48 0 0.139968f
c161 45 0 0.327966f
c162 37 0 0.157144f
c163 34 0 0.0555803f
c164 33 0 0.0604748f
c165 31 0 0.483897f
c166 25 0 0.332012f
c167 18 0 0.183217f
c168 15 0 0.556487f
c169 12 0 0.0725014f
c170 11 0 0.252521f
c171 10 0 0.0784992f
c172 9 0 0.494119f
c173 8 0 0.396039f
c174 6 0 0.13915f
c175 4 0 0.0567322f
c176 2 0 0.0982605f
r177 64 66 15.2843
r178 64 65 7
r179 62 66 75
r180 57 65 0.140216
r181 53 70 15.2843
r182 53 69 15.2843
r183 52 54 0.0519666
r184 52 53 7
r185 50 54 0.311667
r186 48 62 15.2843
r187 48 61 15.2843
r188 47 50 0.0519666
r189 47 48 7
r190 44 45 7
r191 35 37 29.1667
r192 34 45 36.855
r193 33 34 16.6667
r194 31 70 145.833
r195 27 37 1.46822
r196 27 69 133.333
r197 23 35 1.46822
r198 23 25 79.1667
r199 19 33 14.7074
r200 19 61 91.6667
r201 18 45 15.5984
r202 17 18 58.3333
r203 13 15 168.75
r204 11 13 13.9682
r205 11 12 62.5
r206 9 17 13.9682
r207 9 10 141.667
r208 8 12 13.9682
r209 7 8 139.583
r210 4 7 14.8148
r211 4 6 33.3333
r212 3 10 13.9682
r213 3 6 25
r214 2 44 0.11902
.ends

.subckt PM_LSOGCPX2_nose 2 4 5 6 9 11 13 16 24 25 26 27 29 31 33 35 38 39 40 42
+ 43 44 49 50 56 58 61 62 68 70 76 77 78
c189 78 0 0.078466f
c190 77 0 0.246505f
c191 76 0 0.491387f
c192 70 0 0.262207f
c193 62 0 0.139689f
c194 61 0 0.0841493f
c195 58 0 0.0353541f
c196 56 0 0.205802f
c197 50 0 0.0417844f
c198 49 0 0.0412308f
c199 44 0 0.00913935f
c200 43 0 0.0187572f
c201 42 0 0.0146593f
c202 40 0 0.0182971f
c203 39 0 0.0133869f
c204 38 0 0.00358464f
c205 35 0 0.0821506f
c206 33 0 0.118116f
c207 31 0 0.137681f
c208 29 0 0.0960067f
c209 27 0 0.0571824f
c210 26 0 0.106049f
c211 25 0 0.124335f
c212 16 0 0.253253f
c213 11 0 0.181527f
c214 9 0 0.426824f
c215 6 0 0.0713392f
c216 5 0 0.186043f
c217 4 0 0.593836f
c218 2 0 0.0593588f
r219 69 70 33.3333
r220 68 78 0.0188889
r221 62 77 15.2843
r222 62 76 15.2843
r223 61 63 0.0173469
r224 61 62 7
r225 59 61 0.144558
r226 56 74 4.80769
r227 56 72 24.0385
r228 55 58 0.0519666
r229 55 56 7
r230 50 52 0.155833
r231 47 70 1.66667
r232 46 49 0.0519666
r233 46 47 7
r234 43 44 0.113333
r235 41 42 0.085
r236 39 78 0.0216719
r237 39 40 0.113333
r238 38 40 0.0474919
r239 37 38 0.085
r240 36 63 0.0134325
r241 35 37 0.0474919
r242 35 36 0.226667
r243 33 42 0.0474919
r244 33 58 0.53125
r245 32 43 0.0566667
r246 31 59 0.0134325
r247 31 32 0.410833
r248 30 50 0.00499195
r249 29 44 0.152204
r250 29 30 0.255
r251 27 52 0.00499195
r252 27 49 0.34
r253 26 76 179.167
r254 25 26 16.6389
r255 24 77 45.8333
r256 18 74 4.66416
r257 18 25 45.8333
r258 14 72 4.66416
r259 14 16 50
r260 11 13 25
r261 7 70 4.19369
r262 7 9 112.5
r263 5 11 13.9682
r264 5 6 29.1667
r265 4 69 4.19369
r266 3 6 13.9682
r267 3 4 204.167
r268 2 41 0.0519666
.ends

.subckt PM_LSOGCPX2_cn 2 3 5 8 9 11 15 16 17 21 26 31 34 35 36 42 44 47 50
c102 50 0 0.261713f
c103 47 0 0.191995f
c104 44 0 0.0988003f
c105 42 0 0.157124f
c106 36 0 0.0247059f
c107 35 0 0.139205f
c108 34 0 0.162173f
c109 31 0 0.0455851f
c110 26 0 0.0364925f
c111 21 0 0.18543f
c112 17 0 0.086471f
c113 16 0 0.0634263f
c114 15 0 0.427574f
c115 9 0 0.215999f
c116 8 0 0.601832f
c117 5 0 0.216257f
c118 3 0 0.258552f
c119 2 0 0.157207f
r120 44 55 0.03825
r121 42 54 15.2843
r122 41 42 7
r123 34 50 15.2843
r124 33 36 0.0141667
r125 33 35 0.0519666
r126 33 34 7
r127 31 35 0.453333
r128 29 47 15.2778
r129 28 31 0.0519666
r130 28 29 7
r131 26 55 0.025958
r132 25 36 0.0216719
r133 25 26 0.085
r134 19 21 35.4167
r135 16 17 27.7909
r136 15 21 1.46822
r137 15 54 147.917
r138 12 19 1.46822
r139 12 50 85.4167
r140 9 47 6.3741
r141 9 11 45.8333
r142 8 47 6.3741
r143 7 16 14.7074
r144 7 8 212.5
r145 3 17 37.1613
r146 3 5 37.5
r147 2 41 0.103553
.ends

.subckt PM_LSOGCPX2_ci 2 5 9 13 16 17 20 22 23 26 28 30 32 34 39 42 44 47 52 54
+ 57 66 73 74 78
c141 78 0 0.0341422f
c142 74 0 0.241329f
c143 73 0 0.115722f
c144 66 0 0.0742076f
c145 57 0 0.0617935f
c146 54 0 0.0264924f
c147 52 0 0.143242f
c148 47 0 0.0330248f
c149 44 0 0.0206752f
c150 42 0 0.160127f
c151 39 0 0.014263f
c152 34 0 0.103974f
c153 32 0 0.061537f
c154 30 0 0.148231f
c155 28 0 0.0741435f
c156 26 0 0.167122f
c157 23 0 0.170712f
c158 22 0 0.220438f
c159 20 0 0.210193f
c160 17 0 0.552801f
c161 16 0 0.190279f
c162 9 0 0.228503f
c163 5 0 0.8439f
c164 2 0 0.0794484f
r165 66 78 0.0566888
r166 57 59 0.119
r167 57 58 7
r168 55 57 0.017
r169 52 74 15.2843
r170 52 73 15.2843
r171 51 54 0.0519666
r172 51 52 7
r173 47 49 0.0244253
r174 47 48 7
r175 45 47 0.0146552
r176 42 69 15.2843
r177 41 44 0.0519666
r178 41 42 7
r179 38 60 0.0216719
r180 38 39 0.085
r181 36 78 0.085
r182 35 55 0.0142585
r183 34 39 0.0474919
r184 34 35 0.240833
r185 32 36 0.0474919
r186 32 54 0.255
r187 31 45 0.0202956
r188 30 59 0.0142585
r189 30 31 0.5525
r190 28 49 0.0202956
r191 28 44 0.368333
r192 24 26 29.1667
r193 22 48 33.4821
r194 22 23 33.3333
r195 18 58 23.917
r196 18 20 37.5
r197 17 26 1.46822
r198 16 58 15.3456
r199 16 17 185.417
r200 14 24 1.46822
r201 14 73 35.4167
r202 13 74 45.8333
r203 7 23 14.7074
r204 7 9 41.6667
r205 5 69 275
r206 2 60 0.0708333
.ends

.subckt PM_LSOGCPX2_GCLK 2 5 7 11 13 18 21 24 26 31 38
c74 38 0 0.130547f
c75 31 0 0.289098f
c76 26 0 0.0657329f
c77 21 0 0.163198f
c78 18 0 0.165304f
c79 13 0 0.0387991f
c80 11 0 0.161267f
c81 7 0 0.183041f
c82 5 0 0.101067f
c83 2 0 0.189365f
r84 31 35 93.75
r85 26 38 0.0566888
r86 21 24 0.0168785
r87 18 35 15.2843
r88 17 18 7
r89 11 31 15.2843
r90 10 13 0.0519666
r91 10 11 7
r92 7 24 0.0537795
r93 7 38 0.432083
r94 5 21 0.0742653
r95 5 13 0.453333
r96 2 17 0.104538
.ends

.subckt PM_LSOGCPX2_nose2 2 5 6 8 9 10 12 13 15 20 21 23 25 29 32 34 37 38 39 45
+ 47 56
c77 56 0 0.0267498f
c78 47 0 0.247529f
c79 45 0 0.0693485f
c80 39 0 0.126311f
c81 38 0 0.161639f
c82 37 0 0.0687209f
c83 34 0 0.0496012f
c84 32 0 0.0315334f
c85 29 0 0.160449f
c86 25 0 0.0420529f
c87 23 0 0.184815f
c88 21 0 0.101129f
c89 20 0 0.0319716f
c90 16 0 0.0692456f
c91 13 0 0.23774f
c92 12 0 0.518385f
c93 10 0 0.192293f
c94 9 0 0.155482f
c95 6 0 0.245273f
r96 45 56 0.0566888
r97 38 53 15.2843
r98 37 39 0.0519666
r99 37 38 7
r100 33 50 17.0384
r101 32 34 0.0519666
r102 32 33 7
r103 29 47 15.2843
r104 28 29 7
r105 25 28 0.0236111
r106 23 43 0.0377283
r107 23 39 0.255
r108 22 25 0.0216719
r109 21 43 0.0138203
r110 21 22 0.481667
r111 20 34 0.198333
r112 17 20 0.0474919
r113 17 56 0.085
r114 13 16 10.5861
r115 13 15 45.8333
r116 12 16 10.5861
r117 12 53 150
r118 10 50 10.9916
r119 9 16 2.75115
r120 9 10 54.1667
r121 6 50 5.0714
r122 6 8 45.8333
r123 5 47 45.8333
r124 2 43 0.148922
.ends

.subckt PM_LSOGCPX2_SE 1 3 4 5 8 12 16
c43 16 0 0.25535f
c44 12 0 0.0781551f
c45 8 0 0.548214f
c46 5 0 0.236844f
c47 4 0 0.298797f
c48 1 0 0.152471f
r49 16 18 26.3889
r50 15 16 7
r51 12 15 0.0519444
r52 6 18 6.3741
r53 6 8 162.5
r54 5 18 6.3741
r55 4 10 44.9
r56 4 5 75
r57 1 10 5.13052
r58 1 3 25
.ends

.subckt PM_LSOGCPX2_E 3 5 6 9 12 15 21 23
c49 23 0 0.16619f
c50 21 0 0.030744f
c51 15 0 0.167561f
c52 12 0 0.28917f
c53 9 0 0.201746f
c54 6 0 0.0616446f
c55 5 0 0.126642f
c56 3 0 0.722575f
r57 19 23 11.3895
r58 19 21 7
r59 13 15 25
r60 12 23 6.07858
r61 11 15 1.46822
r62 11 12 102.083
r63 7 13 1.46822
r64 7 9 37.5
r65 5 23 11.066
r66 5 6 41.6667
r67 1 6 13.9682
r68 1 3 222.917
.ends

.subckt PM_LSOGCPX2_CLK 1 3 4 5 8 11 12 14 16 19 21 22 25 27 31 32 34 36 37 45
c85 45 0 0.0773842f
c86 37 0 0.160911f
c87 36 0 0.0381476f
c88 32 0 0.11286f
c89 31 0 0.13809f
c90 27 0 0.169948f
c91 25 0 0.116015f
c92 22 0 0.05735f
c93 19 0 0.207231f
c94 14 0 0.236269f
c95 12 0 0.333721f
c96 11 0 0.658528f
c97 8 0 0.404887f
c98 5 0 0.0659092f
c99 4 0 0.0857312f
c100 1 0 0.238396f
r101 37 45 15.2843
r102 36 39 0.0283333
r103 36 37 7
r104 32 34 0.0851793
r105 31 43 15.2843
r106 31 42 15.2843
r107 30 32 0.035865
r108 30 31 7
r109 28 32 0.0237833
r110 27 39 0.0216719
r111 27 28 0.623333
r112 23 25 20.8333
r113 19 25 1.46822
r114 19 21 41.6667
r115 17 23 1.46822
r116 17 45 25
r117 14 16 45.8333
r118 13 22 10.5861
r119 12 14 13.9682
r120 12 13 79.1667
r121 11 22 2.75115
r122 11 43 204.167
r123 8 42 104.167
r124 4 22 10.5861
r125 4 5 33.3333
r126 1 5 13.9682
r127 1 3 45.8333
.ends

